Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Wound drainage
 
Major Surgical or Invasive Procedure:
Lumbar Surgical Wound Irrigation & Debridement (___)

 
History of Present Illness:
HPI: ___ is an ___ male with history pertinent
for T2DM and lumbar stenosis s/p L4-S1 laminectomy on ___ 
who
is now admitted for draining surgical wound. He has had ___
coming to his residence to change dressings on his right great
toe and back. For the past several days he has had increasing
pain and soreness ___ his low back that is exacerbated by walking
and standing. He finds relief with sitting or lying down. He
denies any radiation of the pain and denies any numbness or
tingling. He also denies having any bowel or bladder changes. He
thinks his wound has been draining for the past several days as
well. He denies experiencing any fevers, chills, nausea,
vomiting, weakness, or shortness of breath. He does endorse some
soreness ___ his right ankle.

Of note, during his last admission he was found to have a 
blister
on the plantar surface of his right great toe. Since being
discharged, he has been evaluated by Podiatry and Vascular
Surgery and underwent right SFA and proximal peroneal stenting 
on
___. He was then prescribed Clopidogrel x30 days followed by
lifelong ASA 81 mg and statin therapy. Mr. ___ is unsure if 
he
is currently taking Clopidogrel, however.  

 
Past Medical History:
PMH/PSH: 
HLD
T2DM
HTN
CORNEAL TRANSPLANT OS    
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL:
====================
Vitals: ___ 2239 Temp: 98.5 PO BP: 160/65 L Sitting HR: 90
RR: 18 O2 sat: 98% O2 delivery: RA 
___ ___ FSBG: 302 

General: Elderly gentleman lying ___ bed on his right side ___ no
acute distress, alert and oriented, answering questions
appropriately, pleasant affect.
Resp: Normal respiratory effort on room air.
CV: Regular rate and rhythm by peripheral palpation.

Right Lower Extremity:
Gauze dressing removed. There is a large ulcerated wound on the
plantar surface of the great toe. Skin is macerated and there is
wet fibrinous exudate within the wound bed. Toe is tender to
palpation. The foot/ankle is erythematous with some tenderness 
to
palpation. 

Back: Midline lumbar incision has ~2 cm open area at superior
margin with thick green fibrinous exudate, There are two smaller
areas of dehiscence more inferiorly also with fibrinous green
exudate. No palpable fluid collection, but thick fluid can be
expressed from wound. ___ area is tender to
palpation. 

Sensory:
___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

              
Clonus: No beats

DISCHARGE PHYSICAL:
===================
VITALS: 
___ 0748 Temp: 98.1 PO BP: 151/63 HR: 85 RR: 18 O2 sat: 93%
O2 delivery: Ra FSBG: 97  
GENERAL: Lying ___ bed, ___ no acute distress.
HEENT: NC/AT, PERRLA, cataract L eye, MMM missing teeth
CARDIAC: RRR nl s1/s2, no mrg
LUNGS: Bibasilar crackles, no w/r, good air movement
BACK: No spinous process tenderness. C/d/I dressings on lower
lumbar region. No surrounding erythema, induration, or
tenderness. 
ABDOMEN: S/ND/NT 
EXTREMITIES: Pulses DP 2+ bilaterally. Bandaged R toe. ___ thin,
appears deconditioned 
SKIN: Warm, dry, intact
NEUROLOGIC: CN2-12 grossly intact. Moving all extremities with
purpose. Able to answer questions.

 
Pertinent Results:
ADMISSION LABS:
=================
___ 01:11AM BLOOD WBC-8.4 RBC-3.20* Hgb-9.5* Hct-29.3* 
MCV-92 MCH-29.7 MCHC-32.4 RDW-13.2 RDWSD-43.8 Plt ___
___ 01:11AM BLOOD Neuts-63.7 Lymphs-16.9* Monos-10.9 
Eos-6.5 Baso-0.4 Im ___ AbsNeut-5.34 AbsLymp-1.41 
AbsMono-0.91* AbsEos-0.54 AbsBaso-0.03
___ 01:11AM BLOOD ___ PTT-39.5* ___
___ 01:11AM BLOOD Glucose-214* UreaN-23* Creat-1.3* Na-135 
K-4.8 Cl-96 HCO3-26 AnGap-13
___ 06:19AM BLOOD Glucose-166* UreaN-18 Creat-1.2 Na-140 
K-4.9 Cl-102 HCO3-23 AnGap-15
___ 01:11AM BLOOD AST-18 AlkPhos-124
___ 01:11AM BLOOD Calcium-8.9 Phos-3.2 Mg-1.9
___ 01:11AM BLOOD CRP-72.5*
___ 06:19AM BLOOD CRP-57.8*
___ 01:53AM BLOOD Type-ART Temp-37 pO2-50* pCO2-30* pH-7.36 
calTCO2-18* Base XS--6

MICRO:
======
___ 3:15 pm SWAB      LUMBAR WOUND DEEP. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------       R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

___ 3:15 pm SWAB      LUMBAR WOUND SUPERFICIAL. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

___ 12:32 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH. 
___ 11:08 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 

IMAGING:
========
___ Toe Xray:
uestionable new fracture of the medial aspect of the proximal 
had of the
distal phalanx is demonstrated, not clearly seen on previous 
examination.  No
associated soft tissue swelling is seen.  Overall there is 
decreased bone
density compared to previous examination from ___. 
If concern for
osteomyelitis is present, assessment with MRI is to be 
considered.

___ CTA Chest:
1. No evidence of pulmonary embolism or aortic abnormality 
although
examination is somewhat limited by motion.
2. Extensive areas of consolidation with associated moderate 
right and small
left pleural effusions.  Findings can represent multifocal 
pneumonia versus
asymmetric pulmonary edema.
3. Moderate right, small left pleural effusions.
 
CXR ___:
The tip of the endotracheal tube projects at the level of the 
clavicular
heads.  A feeding tube extends to the stomach and the tip of an 
esophageal
probe projects over the GE junction.  The tip of a right 
internal jugular
central venous catheter projects over the cavoatrial junction.
 
Unchanged opacifications are noted throughout the right lung and 
left lung base consistent with multifocal pneumonia.  No 
pneumothorax.  Small bilateral pleural effusions are also 
suspected.  The size of the cardiac silhouette is unchanged.

Renal US ___:
1. No hydronephrosis.  Simple right renal cyst.
2. Scant trace ascites incidentally noted ___ the pelvis.

EEG ___:
This is an abnormal video-EEG monitoring session because of
diffuse background slowing and disorganization. This is 
indicative of
moderate to severe diffuse cerebral dysfunction, which is 
nonspecific as to etiology. Common causes are infection, toxic 
and metabolic abnormalities, and medication effects. There were 
also rare generalized epileptiform discharges, which is 
indicative of increased predispositions to generalized seizures. 
This recording captured no pushbutton activations or 
electrographic seizures. Compared to the prior day's recording, 
there is mild improvement ___ the background activity and less 
frequent generalized sharp wave discharges.

CXR ___:
Comparison to ___.  The patient is rotated.  Moderate 
cardiomegaly persists.  Stable appearance of the lung 
parenchymal changes.  No new opacities.  Stable position of the 
right internal jugular vein catheter.

DISCHARGE LABS:
===============
___ 05:39AM BLOOD WBC-15.0* RBC-2.93* Hgb-8.7* Hct-27.3* 
MCV-93 MCH-29.7 MCHC-31.9* RDW-14.4 RDWSD-47.9* Plt ___
___ 05:39AM BLOOD Glucose-172* UreaN-32* Creat-1.3* Na-139 
K-4.4 Cl-101 HCO___ AnGap-___ year old man with a PMH of T2DM, lumbar stenosis s/p L4-S1 
laminectomy ___ ___ who presented with dehisced surgical 
wound s/p I&D and closure, wound swabs ___ growing MSSA on 
antibiotics, course complicated by multifocal pneumonia and 
respiratory and PEA arrest on ___, status post targeted 
temperature management.

ACUTE ISSUES:
-------------
# Laminectomy wound dehiscence & infection
Patient presented with dehisced surgical wound from laminectomy, 
underwent I&D and closure. Wound swabs grew MSSA, ID consulted 
was ultimately coursed out for 6 weeks of cefepime and Flagyl 
ending ___.

# Hypoxemic respiratory failure
# Multifocal pneumonia
# Diffuse pulmonary edema
Hospital course, complicated by hypoxemic respiratory failure, 
respiratory arrest requiring intubation and PEA arrest requiring 
resuscitation. He was extubated the next day and imaging showed 
bilateral extensive infiltrates concerning for multifocal 
pneumonia versus aspiration pneumonia/pneumonitis. He also has 
significant pulmonary edema. Respiratory status improved 
markedly with antibiotic therapy and auto diuresis coupled with 
pharmacologic diuresis. He completed an 8 day course for 
hospital-acquired pneumonia ending ___. He was on room air at 
time of discharge breathing comfortably.

# Cardiac Arrest
Patient had respiratory arrest and PEA arrest on ___. He 
received 8 minutes of chest compressions before ROSC. TTE showed 
hypokinesis of the RCA territory, EF55%. He underwent targeted 
temperature management, no focal neurologic deficits were noted 
thereafter and no neuroimaging was pursued. Troponin peaked at 
0.51. No acute ischemic EKG changes were ever noted. Thereafter 
he was optimized medically.

# T2DM
# Hyperglycemia
While on tube feeds at this blood sugar ranged from 200-400 
despite significant insulin. After discontinuing tube feeds 
course complicated by a couple episodes of minimally symptomatic 
hypoglycemia ___ the ___, owing mostly to poor p.o. intake with 
fluctuating appetite. He was discharged on home oral 
anti-hyperglycemics but no insulin.

# Wound on right great toe
# PVD
Recently (___) evaluated by podiatry and vascular surgery and 
ultimately underwent right SFA and proximal peroneal stenting. 
He does have a history of cellulitis and osteomyelitis. Notably 
CHA ED and imaging concerning for erosions perhaps related to 
osteomyelitis. Patient and family declined amputation and bone 
biopsy as recommended by podiatry. He is undergoing long term IV 
antibiotic treatment for MSSA infection of surgical wound as 
above. He was discharged on Plavix and ___, with lifelong 
aspirin thereafter. Wound recs as noted below.

# Nutrition
After arrest was aspirating, for a period of time was maintained 
on tube feeds through ___. After passing further speech and 
swallow test she was transitioned to p.o. Intake was poor but 
adequate related more to disliking the hospital food.

# Hypertension
Presented ___ shock ___ setting of infection, cardiac arrest. Was 
gradually restarted on home medications thereafter.

# Anemia
Postoperatively had blood loss, ultimately required 1 unit PRBC. 
thereafter had gradual recovery of blood counts. Discharge 
hemoglobin approximately 9.

# ___
Baseline creatinine 1.2, peaked at 3.7, downtrended with 
diuresis, discharge Cr 1.3. 

====================
TRANSITIONAL ISSUES:
====================

#CODE: DNR, ok to intubate
#CONTACT: ___. Phone number: ___ 

[ ] Continue to monitor foot wound.
[ ] Continue to monitor blood sugar and adjust insulin as needed
[ ] Trend CBC for recovery of hemoglobin, resolution of WBC.
[ ] Repeat urinalysis ___ 1 month.
[ ] Assess volume status, consider the role of home diuretic.
[ ] Plavix ends ___
[ ] Antibiotics (Cefepime / Flagyl) end ___

Discharge BUN/Cr: 32/1.3
Discharge H/H: 8.7/___.3

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 2 mg PO HS 
2. Gabapentin 100 mg PO QHS 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. dorzolamide-timolol 22.3-6.8 mg/mL ophthalmic (eye) BID 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE DAILY 
7. amLODIPine 5 mg PO DAILY 
8. SITagliptin 50 mg oral DAILY 
9. Atorvastatin 10 mg PO QPM 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Melatin (melatonin) 3 mg oral QHS:PRN 
12. Clopidogrel 75 mg PO DAILY 
13. Aspirin 81 mg PO DAILY 
14. Hydrochlorothiazide 25 mg PO DAILY 
15. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  CefePIME 1 g IV Q12H 
RX *cefepime [Maxipime] 1 gram 1 g IV twice a day Disp #*60 Vial 
Refills:*0 
2.  Glargine 30 Units Bedtime
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
3.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Clopidogrel 75 mg PO DAILY  
8.  Cyanocobalamin 1000 mcg PO DAILY  
9.  dorzolamide-timolol 22.3-6.8 mg/mL ophthalmic (eye) BID  
10.  Doxazosin 2 mg PO HS  
11.  Ferrous Sulfate 325 mg PO DAILY  
12.  Gabapentin 100 mg PO QHS  
13.  Hydrochlorothiazide 25 mg PO DAILY  
14.  Melatin (melatonin) 3 mg oral QHS:PRN  
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE DAILY  


 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Laminectomy wound dehiscence & infection
Hypoxemic Respiratory Failure
Multifocal pneumonia
Acute Kidney Injury
PEA Arrest
Type II Diabetes
SFA/Peroneal arterial insufficiency
Protein Calorie Malnutrition
Hypertension
Toxic Metabolic Encephalopathy
Anemia of Chronic Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
- You came to the hospital because the surgical wound on your 
back had opened up.

WHAT HAPPENED WHILE YOU WERE HERE?
- You had surgery to correct the wound. You were also started on 
antibiotics to treat the wound infection.

- Your heart stopped ___ the hospital and you underwent 
resuscitation to restart your heart.

- You had a blood vessel ___ your leg that was very narrow so it 
was opened with a stent.

- You had a lung infection that we treated with antibiotics.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Please continue to take all of your medications as directed, 
and follow up with all of your doctors. 

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___